US09029413B2
HMG CoA Synthase
Intrinsic activity of HMG-CoA synthase is measured in the following in vitro assay. Enzyme protein (ca. 12.2 μg) is added to a solution containing 117 mM Tris-HCl (pH 8.0), 11.7 mM MgCl2, 1.17 mM Ethylenediaminetetraacetic acid (EDTA), 0.58 mM dithiothreitol, in the presence or absence of the test compound (added as, e.g., a 2 μg/ml solution in dimethylsulfoxide). The incubation is in a volume of 0.085 ml at 30° C. in a shaking water bath. After 5 minutes, 15 μl of a solution containing acetoacetyl-CoA and 0.1 μCi of 1[14C]-acetyl-CoA is added to give final concentrations of 0.1 and 0.4 mM, respectively. The incubation is continued for 2 more minutes and the reaction stopped by the addition of 50 μl of the assay mixture to 0.2 ml of 6N HCl in a glass scintillation vial. The vial is heated for 1 hour at 110° C. after which time 0.2 ml more of 6N HCl is again added to each vial and the heating continued for another hour. Following this, 1.0 ml of 0.9% saline is added to each vial and finally 10 ml of scintillation liquid. Radioactivity is determined in a Packard Tri-Carb liquid scintillation counter. Percent inhibition is calculated a standard formula. IC50 values are determined by plotting the log of the concentration of the test compound verses the percentage inhibition and fitting a straight line to the resulting data by using the least squares method.

reactant | HMG-CoA | C[C@](CC(=O)O)(CC(=O)SCCNC(=O)CCNC(=O)[C@@H](C(C)(C)COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)O)O | C27H44N7O20P3S
reactant | Tris-HCl | 117 mM, pH 8.0 | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 11.7 mM | [Mg+2].[Cl-].[Cl-]
reactant | Ethylenediaminetetraacetic acid | 1.17 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | dithiothreitol | 0.58 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | acetoacetyl-CoA | C(CC(=O)C)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C25H40N7O18P3S
reactant | HCl | 6N, 0.2 ml | Cl | ClH
reactant | HCl | 6N | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
